US05814508
Into a 100 mL graduated cylinder was placed 54.4 mL of an aqueous reaction mixture containing 1.84M 4-cyanopentanoic acid ammonium salt (0.1 mole 4-cyanopentanoic acid ammonium salt, produced by the enzymatic hydrolysis of 2-methylglutaronitrile; Example 9, filtered product mixture from reaction #5), then 25.8 ml of 40 wt. % methylamine (9.31 g methylamine, 0.3 mole) was added and the final volume adjusted to 100 mL with distilled water. The final concentrations of 4-cyanopentanoic acid ammonium salt and methylamine were 1.0M and 3.0M, respectively. To the resulting solution was added 0.636 g (5 wt. %/wt. of 4-cyanopentanoic acid) of 5% Pd on carbon powder, and the resulting mixture charged to a 300-mL 314 SS Autoclave Engineers EZE-Seal stirred autoclave equipped with a Dispersimax® turbine-type impeller. After flushing the reactor with nitrogen, the contents of the reactor were stirred at 1000 rpm and heater at 160° C. under 500 psig of hydrogen gas for 4 h. Samples (ca. 1.5 mL) were removed via a sampling tube over the course of the reaction for analysis. After cooling to room temperature, analysis of the final reaction mixture by gas chromatography indicated a 72.8% yield of 1,5-dimethyl-2-piperidone, 3.5% 5-methyl-2-piperidone, 19.9% 2-methylglutaric acid, and no 4-cyanopentanoic acid ammonium salt remaining.

reactant | methylamine | 0.3 mole, 9.31 g | CN | CH5N
reactant | 4-cyanopentanoic acid ammonium salt | [NH4+].C(#N)C(CCC(=O)[O-])C
reactant | 5-methyl-2-piperidone | CC1CCC(NC1)=O | C6H11NO
reactant | 2-methylglutaric acid | CC(C(=O)O)CCC(=O)O | C6H10O4
catalyst | Pd on carbon | 0.636 g | [Pd] | Pd
solvent | water | O | H2O
product | 1,5-dimethyl-2-piperidone | 72.8% yield | CN1C(CCC(C1)C)=O | C7H13NO
